US04337201
(cis)-1-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-4-methoxy-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester
A solution of 2.9 g of (cis)-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-4-methoxy-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester in 50 ml of dry dichloromethane is treated with 1.0 g of bromotrimethylsilane at 0° C., then stirred at room temperature for 16 hours under argon. The solvent is evaporated in vacuo and the oil residue is dissolved in ether and treated with an excess of saturated sodium. The aqueous portion is treated with 6 N HCl to pH 1.5 and the product is extracted into ethyl acetate, dried and evaporated in vacuo to give 1.4 g of product.

reactant | (cis)-1-[[ethoxy(4-phenylbutyl)phosphinyl]acetyl]-4-methoxy-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester | 2.9 g | C(C)OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)OCOC(C(C)(C)C)=O)C[C@@H](C1)OC | C26H40NO8P
reactant | bromotrimethylsilane | 1.0 g | Br[Si](C)(C)C | C3H9BrSi
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | (cis)-1-[[Hydroxy(4-phenylbutyl)phosphinyl]acetyl]-4-methoxy-L-proline, (2,2-dimethyl-1-oxopropoxy)methyl ester | 1.4 g | OP(=O)(CCCCC1=CC=CC=C1)CC(=O)N1[C@H](C(=O)OCOC(C(C)(C)C)=O)C[C@@H](C1)OC | C24H36NO8P
